US06855774B2
An autoclave was charged with 15 g (28.9 mmol) of 2,2-bis[4-(4-aminophenoxy)phenyl]hexafluoropropane, 7.62 ml (72.3 mmol) of o-fluoronitrobenzene, 6.5 g (161 mmol) of magnesium oxide and 75 ml of water, and the temperature of the autoclave was elevated to 250° C. with stirring. The reaction was continued for 12 hours at the same temperature. After the completion of the reaction, the system was cooled to the room temperature, and 800 ml of ethyl acetate and 300 ml of water were added thereto. Stirring was continued until the generated substance was dissolved in ethyl acetate. The obtained solution was filtered with cerite and extraction with ethyl acetate was conducted twice. Washing was carried out with 1N-hydrochloric acid, saturated aqueous solution of sodium hydrogen carbonate and then with saturated saline, followed by drying with absolute magnesium persulfate and the solvent was removed under reduced pressure. The resulting crude product was refined by using silica gel chromatography (hexane: ethyl acetate=5:1) and re-crystallized by using an ethanol-water mixed solution to obtain 15 g of 2,2-bis[N-(2-nitrophenyl)-{4-(4-aminophenoxy)phenyl}]hexafluoropropane in an orange crystal (yeild: 68%).

reactant | 2,2-bis[4-(4-aminophenoxy)phenyl]hexafluoropropane | 28.9 mmol, 15 g | NC1=CC=C(OC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)C2=CC=C(C=C2)OC2=CC=C(C=C2)N)C=C1 | C27H20F6N2O2
reactant | o-fluoronitrobenzene | 72.3 mmol, 7.62 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | magnesium oxide | 161 mmol, 6.5 g | [O-2].[Mg+2]
reactant | water | 75 ml | O | H2O
reactant | water | 300 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 2,2-bis[N-(2-nitrophenyl)-{4-(4-aminophenoxy)phenyl}]hexafluoropropane | 15 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC=C(OC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)C2=CC=C(C=C2)OC2=CC=C(C=C2)NC2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C39H26F6N4O6
